US07838487B2
The crude 8,9-dibromocyclohexadecanone was fed into a reaction vessel containing a slurry of dimethylformamide (DMF) 700 ml and lithium carbonate (111 g 1.5 mole) at 150° C. The mass was aged for 14 hrs. The reaction was washed with 2 L water then 10% aqueous acetic acid (500 ml). Distillation over caustic (2% NaOH ) affords 54 g of 7,9-cyclohexadecadien-1-one and 86 g of a mixture of 8-cyclohexadecenone and 7,9-cyclohexadecadien-1-one.

reactant | 8,9-dibromocyclohexadecanone | BrC1CCCCCCC(CCCCCCCC1Br)=O | C16H28Br2O
reactant | lithium carbonate | 1.5 mole, 111 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 7,9-cyclohexadecadien-1-one | 54 g | C1(CCCCCC=CC=CCCCCCC1)=O | C16H26O
